US06977267B2
5-o-Tolyl-1-trityl-1H-tetrazole
A solution of triphenylmethyl chloride (348 mg, 1.25 mmol, 2 ml DCM) was added dropwise to a mixture of 5-(2-methylphenyl)-1H-tetrazole (200.5 mg, 1.25 mmol) and TEA (174 μl, 1.25 mmol) in 8 ml DCM. The reaction mixture was strirred overnight at RT, then washed with water (10 ml). The organic layer was dried over sodium sulfate and evaporated in vacuo. The residue was purified by preparative chromatography (Cyclohexane/EtOAc 95:5) to yield the above-titled compound (159 mg). 1H NMR (CDCl3): 8.1 (1H, d), 7.45-7.1 (18H, m), 2.5 (3H, s).

reactant | triphenylmethyl chloride | 1.25 mmol, 2 ml, 348 mg | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | 5-(2-methylphenyl)-1H-tetrazole | 1.25 mmol, 200.5 mg | CC1=C(C=CC=C1)C1=NN=NN1 | C8H8N4
solvent | DCM | 8 ml | C(Cl)Cl | CH2Cl2
product | 5-o-Tolyl-1-trityl-1H-tetrazole | 159 mg | C1(=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C | C27H22N4
